US06235739B1
Using the same procedure as in Example 1(3), 3-[3-(2,2-dimethylpropoxy)-4-methoxyphenyl]-4,4-diethoxy-2-ethoxycarbonylbutyric acid ethyl ester, instead of 3-(3,4-dimethoxyphenyl)-4,4-diethoxy-2-ethoxycarbonylbutyric acid ethyl ester, was used to obtain a light yellow solid of the above-referenced compound via 3-[3-(2,2-dimethylpropoxy)-4-methoxyphenyl]-4,4-diethoxybutyric acid (yield 68.7%).

reactant | 3-[3-(2,2-dimethylpropoxy)-4-methoxyphenyl]-4,4-diethoxy-2-ethoxycarbonylbutyric acid ethyl ester | C(C)OC(C(C(C(OCC)OCC)C1=CC(=C(C=C1)OC)OCC(C)(C)C)C(=O)OCC)=O | C25H40O8
reactant | 3-(3,4-dimethoxyphenyl)-4,4-diethoxy-2-ethoxycarbonylbutyric acid ethyl ester | C(C)OC(C(C(C(OCC)OCC)C1=CC(=C(C=C1)OC)OC)C(=O)OCC)=O | C21H32O8
product | 3-[3-(2,2-dimethylpropoxy)-4-methoxyphenyl]-4,4-diethoxybutyric acid | yield 68.7% | CC(COC=1C=C(C=CC1OC)C(CC(=O)O)C(OCC)OCC)(C)C | C20H32O6
